Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Facial cellulitis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y/o M with PMHx significant for HIV and 
recurrent MRSA skin infections who is presenting with facial 
cellulitis. Of note, pt was hospitalized approx. 3 weeks ago for 
cellulitis of his left thumb. He initially presented to PCP 2 
days ago for cellulitis of the right middle finger and was 
started on Bactrim. He then presented to the ED yesterday with 
concerns of this cellulitis, as well as numbness/tingling in his 
left ___ and ___ digits, and redness on his face. He was 
continued on the Bactrim and also given Bactroban. Reports that 
he awoke yesterday morning and that his facial symptoms were 
much worse. Admits to chills, swelling of his eyelids, drainage 
from his eyes, difficultly focusing his thoughts, and some 
imabalance. He aslo reports facial pressure in the location of 
the redness and pustules. He denied any fevers at that time. He 
represented to the ED yesterday out of concern for these 
worsening sypmtoms. He was started on vancomycin and admitted 
for facial cellulitis.  
.  
On exam this morning, pt's VS were Temp 98.0 F, BP 130/78, HR 
61, RR 18, O2-sat 100% RA. He stated that his facial pain and 
pressure were improved. Denied any vision problems. Still 
reports numbness/tingling/weakness in the ulnar nerve 
distribution of the right arm and forearm.  
.  
ROS - As above. Currently, denies headache, visual changes, 
chest pain, shortness of breath, nausea, vomiting, changes in 
bowel habits, urinary symptoms, lightheadedness or dizziness.
 
Past Medical History:
HIV  
- Diagnosed ___, nadir 250 in setting of acute appendicitis  
- CD4 497, VL 4118 ___  
- Started Atripla ___  
H/o MRSA skin infections (back abscess ___, lip infection 
___  
Acute appendicitis s/p appy  
RPR negative ___  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
(Per Admitting Resident)
Vitals: T:97.9 BP: 149/70 P:79 R:16 O2:100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: facial pustules, no area of fluctuance  

 
Pertinent Results:
Admission Labs
___ 05:00AM BLOOD WBC-4.7 RBC-3.90* Hgb-11.9* Hct-34.1* 
MCV-87 MCH-30.5 MCHC-34.9 RDW-15.9* Plt ___
___ 05:00AM BLOOD Neuts-65.7 ___ Monos-5.6 Eos-1.2 
Baso-0.6
___ 05:00AM BLOOD  WBC-4.7 Lymph-27 Abs ___ CD3%-77 
Abs CD3-973 CD4%-39 Abs CD4-492 CD8%-36 Abs CD8-455 CD4/CD8-1.1
___ 05:00AM BLOOD Glucose-88 UreaN-12 Creat-0.9 Na-137 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 04:00PM BLOOD Calcium-8.9 Phos-3.2 Mg-2.2

Discharge Labs
___ 06:00AM BLOOD WBC-4.3 RBC-4.05* Hgb-11.9* Hct-35.4* 
MCV-88 MCH-29.4 MCHC-33.6 RDW-15.9* Plt ___
___ 06:00AM BLOOD Glucose-97 UreaN-10 Creat-0.9 Na-135 
K-4.2 Cl-104 HCO3-23 AnGap-12
___ 06:00AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.3

==========================================
MICRO:

___ 9:05 am SWAB      Source: Facial Lesions. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   0.5 S
 

Blood Cx x 3 - PENDING
MRSA Screen - PENDING

==========================================
IMAGING:

CT Sinus/Orbits - IMPRESSION: No evidence of postseptal orbital 
cellulitis. Bilateral premaxillary soft tissue edema without 
evidence of an abscess.
 
Brief Hospital Course:
___ y/o M with PMHx significant for HIV and recurrent MRSA skin 
infections who is presenting with facial cellulitis.  
 
# Facial Rash - Pt with history of recurrent MRSA abscesses in 
the past. Now, with erythematous rash on cheeks and forehead 
with crusting and pustule formation. Likely facial cellulitis. 
Given pt's reported (but not documented) history of MRSA, 
vancomyin IV was started. MRSA swab and wound cx were went. Of 
concern, however, pt complained of swelling around his eyes 
yesterday that affected his vision on the day before 
presentation. CT of the orbits was performed and did not show 
signs of orbital cellulitis. Rash improved and pt was discharged 
on the day after admission. At discharge, he was switched to 
doxycycline. He was also given a prescription for mupirocin. At 
the time of discharge, his culture data was still pending. It is 
to be followed up by his PCP.

# Right ___ Digit Numbness - Unclear etiology. Possibly 
ulnar nerve trauma. Should be follow-up by PCP.
  
# HIV - On Atripla. HAART was continued during admission and at 
discharge.

# Anemia - Hematocrit 34.1 on presentation, was 41.2 on most 
recent check. No complaints of any bleeding. Remained stable 
throughout admission.
 
Medications on Admission:
Atripla 
 
Discharge Medications:
1. ATRIPLA ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
2. Doxycycline Monohydrate 100 mg Capsule Sig: One (1) Capsule 
PO twice a day for 2 weeks.
Disp:*28 Capsule(s)* Refills:*0*
3. Mupirocin Calcium 2 % Ointment Sig: One (1) application Nasal 
twice a day for 5 days: Apply to each nostril twice a day for 5 
days.
Disp:*1 tube* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Facial Cellulitis

Secondary Diagnosis
- Human Immunodeficiency Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the emergency department with cellulitis on 
your face. You were started on IV vancomycin and your symptoms 
improved. You underwent a CT scan, which did not show evidence 
of cellulitis affecting your eyes. You had some cultures sent, 
which will be followed up at ___. You are being discharged 
with oral antibiotics.

CHANGES TO YOUR MEDICATIONS:
- START Doxycycline 100 mg twice a day for 14 days
- START Mupirocin to your nostrils as directed to treat possible 
MRSA colonization
- CONTINUE your Atripla as you were previously taking it

It was a pleasure taking part in your medical care.
 
Followup Instructions:
___